* Created by KLayout
*** My special header ***

* cell tr_1um_AUDIO_OPAMP05
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_AUDIO_OPAMP05 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9
+ VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -573.2,-402.4
X$2 P5 P7 P6 VSS inverter_0x837c
* cell instance $3 r0 *1 -192.4,-306.5
X$3 P5 P6 P10 VSS inverter_7158918
* cell instance $4 r0 *1 234.8,-368.9
X$4 P11 P6 P5 VSS inverter_eycjur
* cell instance $5 r0 *1 557.1,-382.6
X$5 P6 P12 P5 VSS inverter_jijinbei
* cell instance $10 r0 *1 0,0
X$10 P1 P2 \$17 P15 P3 VSS AUDIO_OPAMP01
.ENDS tr_1um_AUDIO_OPAMP05

* cell inverter_jijinbei
* pin A
* pin Q
* pin VDD
* pin VSS
.SUBCKT inverter_jijinbei A Q VDD VSS
* device instance $1 r0 *1 52.5,7 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=163.2u AS=271.32p AD=271.32p PS=210.2u PD=210.2u
* device instance $9 r0 *1 52.5,-31.8 NMOS
XM$9 VSS A Q VSS NMOS L=1u W=54.4u AS=90.44p AD=90.44p PS=87.8u PD=87.8u
.ENDS inverter_jijinbei

* cell inverter_eycjur
* pin Q
* pin A
* pin VDD
* pin VSS
.SUBCKT inverter_eycjur Q A VDD VSS
* device instance $1 r0 *1 -0.5,6.8 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 -0.5,-18.3 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_eycjur

* cell inverter_7158918
* pin VDD
* pin IN
* pin OUT
* pin VSS
.SUBCKT inverter_7158918 VDD IN OUT VSS
* device instance $1 r180 *1 2.7,-51.8 PMOS
XM$1 OUT IN VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r180 *1 2.9,-73 NMOS
XM$2 OUT IN VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_7158918

* cell inverter_0x837c
* pin VDD
* pin Q
* pin A
* pin VSS
.SUBCKT inverter_0x837c VDD Q A VSS
* device instance $1 r0 *1 24.7,18.9 PMOS
XM$1 VDD A Q VDD PMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $2 r0 *1 24.6,-6.7 NMOS
XM$2 VSS A Q VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_0x837c

* cell AUDIO_OPAMP01
* pin 
* pin 
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT AUDIO_OPAMP01 \$1 \$2 \$3 \$4 \$5 VSS
* cell instance $11 r0 *1 -507.4,580.3
X$11 \$3 \$4 \$2 \$5 \$1 VSS opamp_r2r_MatsuuraHijiri
.ENDS AUDIO_OPAMP01

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell opamp_r2r_MatsuuraHijiri
* pin VDD
* pin OUT
* pin INP
* pin 
* pin VB
* pin VSS
.SUBCKT opamp_r2r_MatsuuraHijiri VDD OUT INP \$11 VB VSS
* cell instance $1 r0 *1 0,0
X$1 \$12 \$23 \$18 \$13 \$21 \$8 VB VDD VSS opamp_r2r_CS
* cell instance $2 r0 *1 602.8,25.8
X$2 \$15 \$16 \$7 \$12 \$17 \$8 \$5 \$13 VDD \$4 \$21 \$6 \$14 VSS
+ opamp_r2r_cascode
* cell instance $3 r0 *1 930.8,47
X$3 \$5 VDD \$4 OUT \$7 \$17 VSS opamp_r2r_ABAMP_MatsuuraHijiri
* cell instance $10 r0 *1 195.5,30.4
X$10 \$23 \$12 \$11 \$6 \$14 INP \$15 \$21 \$16 VDD \$18 VSS
+ opamp_r2r_diff_MatsuuraHijiri
.ENDS opamp_r2r_MatsuuraHijiri

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell opamp_r2r_ABAMP_MatsuuraHijiri
* pin AB_P
* pin VDD
* pin CAP_P
* pin OUT
* pin AB_N
* pin CAP_N
* pin VSS
.SUBCKT opamp_r2r_ABAMP_MatsuuraHijiri AB_P VDD CAP_P OUT AB_N CAP_N VSS
* device instance $1 r0 *1 -32.6,21.6 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=4u W=576u AS=895.2p AD=895.2p PS=674.6u PD=674.6u
* device instance $25 r0 *1 9.4,-51.3 NMOS
XM$25 VSS AB_N OUT VSS NMOS L=4u W=288u AS=463.2p AD=463.2p PS=350.6u PD=350.6u
* device instance $37 r90 *1 -209,34.7 F_CSIO
XC$37 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
* device instance $39 r90 *1 -209,-64.7 F_CSIO
XC$39 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
.ENDS opamp_r2r_ABAMP_MatsuuraHijiri

* cell opamp_r2r_cascode
* pin INP_P
* pin INM_P
* pin AB_N
* pin BNI
* pin CAP_N
* pin BNF
* pin AB_P
* pin BPF
* pin VDD
* pin CAP_P
* pin BPI
* pin INP_N
* pin INM_N
* pin VSS
.SUBCKT opamp_r2r_cascode INP_P INM_P AB_N BNI CAP_N BNF AB_P BPF VDD CAP_P BPI
+ INP_N INM_N VSS
* cell instance $1 m90 *1 -126,-100
X$1 AB_N INP_P BNI VSS NFET_CASCODE_MID
* cell instance $2 r0 *1 -30,-50
X$2 CAP_N \$12 INP_P VSS NFET_PHESE
* cell instance $3 m90 *1 -112,-150
X$3 INP_P \$6 VSS VSS NFET_CASCODE_BOTTOM
* cell instance $4 r0 *1 -60,-150
X$4 VSS INP_P VSS VSS NFET_ZEROCAN
* cell instance $11 r0 *1 -196,-150
X$11 INM_P \$6 VSS VSS NFET_CASCODE_BOTTOM
* cell instance $12 r0 *1 -182,-100
X$12 \$6 INM_P BNI VSS NFET_CASCODE_MID
* cell instance $15 r0 *1 -30,-100
X$15 \$12 \$5 \$12 VSS NFET_ZEROCAN
* cell instance $16 r0 *1 -30,-150
X$16 \$5 VSS \$5 VSS NFET_ZEROCAN
* cell instance $17 m90 *1 -160,0
X$17 VDD \$20 \$6 BPF PFET_CASCODE_BOTTOM
* cell instance $18 r0 *1 -240,0
X$18 VDD \$20 \$6 VDD PFET_CASCODE_BOTTOM
* cell instance $19 r0 *1 -221,-50
X$19 VSS \$6 \$20 VSS NFET_CASCODE_TOP
* cell instance $21 m90 *1 -179,-50
X$21 BNF \$6 \$20 VSS NFET_CASCODE_TOP
* cell instance $23 m90 *1 -68,0
X$23 VDD AB_P AB_N VDD PFET_CASCODE_BOTTOM
* cell instance $24 r0 *1 -148,0
X$24 VDD AB_P AB_N BPF PFET_CASCODE_BOTTOM
* cell instance $25 r0 *1 10,-100
X$25 AB_N VSS \$13 VSS NFET_ZEROCAN
* cell instance $26 m90 *1 -87,-50
X$26 VSS AB_N AB_P VSS NFET_CASCODE_TOP
* cell instance $27 r0 *1 -129,-50
X$27 BNF AB_N AB_P VSS NFET_CASCODE_TOP
* cell instance $30 r0 *1 -50,45
X$30 VDD VDD \$12 AB_P PFET_ZEROCAN
* cell instance $33 r0 *1 -50,0
X$33 INP_N VDD CAP_P \$13 PFET_PHESE
* cell instance $34 r0 *1 -4,45
X$34 VDD \$53 \$13 \$13 PFET_ZEROCAN
* cell instance $37 r0 *1 -208,45
X$37 INM_N VDD BPI \$20 PFET_CASCODE_MID
* cell instance $38 r0 *1 -236,90
X$38 VDD VDD INM_N \$20 PFET_CASCODE_TOP
* cell instance $39 m90 *1 -72,90
X$39 VDD VDD INP_N \$20 PFET_CASCODE_TOP
* cell instance $51 m90 *1 -100,45
X$51 INP_N VDD BPI AB_P PFET_CASCODE_MID
* cell instance $58 r0 *1 -4,90
X$58 VDD VDD \$53 \$53 PFET_ZEROCAN
* cell instance $59 r0 *1 -60,90
X$59 VDD VDD INP_N VDD PFET_ZEROCAN
.ENDS opamp_r2r_cascode

* cell opamp_r2r_CS
* pin BNI
* pin BNO
* pin BPO
* pin BPF
* pin BPI
* pin BNF
* pin VB
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_CS BNI BNO BPO BPF BPI BNF VB VDD VSS
* cell instance $1 r0 *1 -240.2,-130.4
X$1 VSS \$6 BNI VSS NFET_CS_BOTTOM
* cell instance $2 r0 *1 -194.1,-87.6
X$2 BNO BNI \$9 VSS NFET_CS_TOP
* cell instance $3 r0 *1 -240.2,39
X$3 VDD VDD BNI VB PFET_CS_BOTTOM
* cell instance $4 r0 *1 5.2,-87.6
X$4 \$22 BNI \$5 VSS NFET_CS_TOP
* cell instance $5 r0 *1 -101,-87.6
X$5 BPI BNI \$8 VSS NFET_CS_TOP
* cell instance $6 r0 *1 -54.8,-87.6
X$6 BPO BNI \$7 VSS NFET_CS_TOP
* cell instance $7 r0 *1 65.2,-87.6
X$7 BPF BNI \$4 VSS NFET_CS_TOP
* cell instance $8 r0 *1 -240.2,-44.8
X$8 \$13 BNI BNI VSS NFET_CS_BOTTOM
* cell instance $9 r0 *1 -240.2,-87.6
X$9 \$13 \$6 BNI VSS NFET_CS_BOTTOM
* cell instance $10 r0 *1 -267.3,-44.8
X$10 VSS BNI VSS VSS NFET_CS_BOTTOM
* cell instance $11 m90 *1 -160,39
X$11 VDD VDD BNO VB PFET_CS_BOTTOM
* cell instance $12 r0 *1 65.2,-130.4
X$12 VSS BNO \$4 VSS NFET_CS_TOP
* cell instance $13 r0 *1 -54.8,-130.4
X$13 VSS BNO \$7 VSS NFET_CS_TOP
* cell instance $14 r0 *1 -101,-130.4
X$14 VSS BNO \$8 VSS NFET_CS_TOP
* cell instance $15 r0 *1 -194.1,-130.4
X$15 VSS BNO \$9 VSS NFET_CS_TOP
* cell instance $20 r0 *1 5.2,-130.4
X$20 VSS \$22 \$5 VSS NFET_CS_TOP
* cell instance $41 r0 *1 -54.8,39
X$41 \$43 VDD BPI BPO PFET_CS_TOP
* cell instance $42 r0 *1 5.2,81
X$42 VDD VDD BPO \$44 PFET_CS_TOP
* cell instance $43 r0 *1 -54.8,81
X$43 VDD VDD BPO \$43 PFET_CS_TOP
* cell instance $48 r0 *1 65.2,0
X$48 \$38 VDD BPF BPF PFET_CS_TOP
* cell instance $49 r0 *1 5.2,-44.8
X$49 BNF BNF \$22 VSS NFET_CS_TOP
* cell instance $52 r0 *1 -148,0
X$52 VDD VDD BPI VDD PFET_CS_BOTTOM
* cell instance $53 r0 *1 -101,0
X$53 VDD \$51 BPI BPI PFET_CS_BOTTOM
* cell instance $54 r0 *1 65.2,39
X$54 \$45 VDD BPI \$38 PFET_CS_TOP
* cell instance $55 r0 *1 5.2,39
X$55 \$44 VDD BPI BNF PFET_CS_TOP
* cell instance $56 r0 *1 -101,81
X$56 VDD VDD \$56 BPI PFET_CS_BOTTOM
* cell instance $57 r0 *1 -101,39
X$57 VDD \$56 \$51 BPI PFET_CS_BOTTOM
* cell instance $70 r0 *1 65.2,81
X$70 VDD VDD \$38 \$45 PFET_CS_TOP
.ENDS opamp_r2r_CS

* cell opamp_r2r_diff_MatsuuraHijiri
* pin BNO
* pin BNI
* pin INM
* pin INP_N
* pin 
* pin INP
* pin INP_P
* pin BPI
* pin INM_P
* pin VDD
* pin BPO
* pin VSS
.SUBCKT opamp_r2r_diff_MatsuuraHijiri BNO BNI INM INP_N \$31 INP INP_P BPI
+ INM_P VDD BPO VSS
* device instance $1 m90 *1 77.4,15 PMOS
XM$1 INM_P INM \$50 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $5 r0 *1 -14,15 PMOS
XM$5 INP_P INP \$50 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $9 m90 *1 77.4,58.9 PMOS
XM$9 \$50 BPI \$64 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $13 r0 *1 -14,58.9 PMOS
XM$13 \$50 BPI \$62 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $17 m90 *1 77.4,101.5 PMOS
XM$17 VDD BPO \$64 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $21 r0 *1 -14,101.5 PMOS
XM$21 VDD BPO \$62 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $25 r0 *1 -4,-124.6 NMOS
XM$25 \$2 BNO VSS VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $27 r0 *1 -4,-81.5 NMOS
XM$27 \$2 BNI \$11 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $29 m90 *1 67.4,-81.5 NMOS
XM$29 \$3 BNI \$11 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $31 m90 *1 67.4,-124.6 NMOS
XM$31 \$3 BNO VSS VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $33 m90 *1 67.4,-40 NMOS
XM$33 \$11 INM \$31 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $35 r0 *1 -4,-40 NMOS
XM$35 \$11 INP INP_N VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
.ENDS opamp_r2r_diff_MatsuuraHijiri

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD

* cell PFET_CASCODE_TOP
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_TOP \$1 \$2 \$3 \$8
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$3 \$8 \$1 \$2 PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u PD=134.6u
.ENDS PFET_CASCODE_TOP

* cell PFET_PHESE
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_PHESE \$1 \$2 \$3 \$6
* device instance $1 r0 *1 11.9,16.2 PMOS
XM$1 \$3 \$6 \$1 \$2 PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u PD=134.6u
.ENDS PFET_PHESE

* cell NFET_CASCODE_BOTTOM
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_BOTTOM \$1 \$2 \$5 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$1 \$2 \$5 VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS NFET_CASCODE_BOTTOM

* cell NFET_CASCODE_MID
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_MID \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS NFET_CASCODE_MID

* cell PFET_CASCODE_MID
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_MID \$1 \$2 \$3 \$7
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$7 \$3 \$1 \$2 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS PFET_CASCODE_MID

* cell NFET_PHESE
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_PHESE \$1 \$2 \$5 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$1 \$2 \$5 VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS NFET_PHESE

* cell NFET_CASCODE_TOP
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_TOP \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,19.3 NMOS
XM$1 \$2 \$1 \$3 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS NFET_CASCODE_TOP

* cell NFET_ZEROCAN
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_ZEROCAN \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,19.3 NMOS
XM$1 \$2 \$1 \$3 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS NFET_ZEROCAN

* cell PFET_ZEROCAN
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_ZEROCAN \$1 \$2 \$3 \$5
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$3 \$5 \$2 \$1 PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS PFET_ZEROCAN

* cell PFET_CASCODE_BOTTOM
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_BOTTOM \$1 \$2 \$3 \$5
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$3 \$5 \$2 \$1 PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS PFET_CASCODE_BOTTOM

* cell NFET_CS_TOP
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CS_TOP \$1 \$2 \$4 VSS
* device instance $1 r0 *1 4.8,17.6 NMOS
XM$1 \$1 \$2 \$4 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
.ENDS NFET_CS_TOP

* cell NFET_CS_BOTTOM
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CS_BOTTOM \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,16.3 NMOS
XM$1 \$1 \$3 \$2 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
.ENDS NFET_CS_BOTTOM

* cell PFET_CS_TOP
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CS_TOP \$1 \$2 \$3 \$6
* device instance $1 r0 *1 11.8,13.2 PMOS
XM$1 \$6 \$3 \$1 \$2 PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
.ENDS PFET_CS_TOP

* cell PFET_CS_BOTTOM
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CS_BOTTOM \$1 \$2 \$3 \$4
* device instance $1 r0 *1 11.8,13.2 PMOS
XM$1 \$3 \$4 \$2 \$1 PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
.ENDS PFET_CS_BOTTOM
